US08193234B2
2-(2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetamido)acetic acid is prepared via either of the two routes shown below. In the first, 2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetic acid (see eg 3) is coupled with glycine ethyl ester and then hydrolyzed to the acid. In the second, 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetic acid (see eg 1) is coupled with NH2-Gly-Gly-OEt, which is then hydrolyzed to the acid.

reactant | 2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetic acid | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SCC(=O)NCC(=O)O | C18H13BrN4O3S
reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
reactant | 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetic acid | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SCC(=O)O | C16H10BrN3O2S
reactant | NH2-Gly-Gly-OEt | NCC(=O)NCC(=O)OCC | C6H12N2O3
product | 2-(2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetamido)acetic acid | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SCC(=O)NCC(=O)NCC(=O)O | C20H16BrN5O4S
